US08084620B2
A solution of 3-bromo-2-methylaniline (1 g, 5.37 mmol) in DCM (15 mL) was treated with TEA (0.749 mL, 5.37 mmol) and then dropwise with a solution of 5-bromopentanoyl chloride (1.072 g, 5.37 mmol) in DCM (4 mL). The mixture was stirred at rt for 30 min, then was diluted with DCM, washed with water and brine, and dried and concentrated. The residue was dissolved in THF (100 mL) and added to a suspension of sodium hydride (60% oil dispersion, pre-washed with hexane, 0.430 g, 10.75 mmol) in THF (50 mL). The resulting mixture was stirred overnight at rt. The mixture was concentrated and the residue was acidified with 1 M hydrochloric acid. The mixture was extracted with DCM and the organic phase was washed with water, dried and concentrated to give 1-(3-bromo-2-methylphenyl)piperidin-2-one as a tan oil (1.4 g, 97%). 1H NMR (400 MHz, chloroform-d) δ 7.49-7.54 (1H, m), 7.07-7.13 (2H, m), 3.38-3.60 (2H, m), 2.54-2.59 (2H, m), 2.26 (3H, s), 1.91-2.02 (4H, m). Mass spectrum m/z 268, 270 (M+H)+.

reactant | 3-bromo-2-methylaniline | 5.37 mmol, 1 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 5-bromopentanoyl chloride | 5.37 mmol, 1.072 g | BrCCCCC(=O)Cl | C5H8BrClO
reactant | sodium hydride | 10.75 mmol, 0.430 g | [H-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(3-bromo-2-methylphenyl)piperidin-2-one | 1.4 g, 97% | BrC=1C(=C(C=CC1)N1C(CCCC1)=O)C | C12H14BrNO
